US07728013B2
Preparation of 1-phenyl-5-methyl-2-pyridinethione (Compound 18):
1-phenyl-5-methyl-2-pyridinone (555.7 mg, 3 mmol) was reacted with Lawesson's reagent (606.7 mg, 1.5 mmol) in toluene (5 ml) at 90° C. Reaction mixture was evaporated and the target compound was isolated by column chromatography (20-30% ethyl acetate-hexane) followed by crystallization from methyl-tert-butyl ether. Yield 403 mg (67%), yellow solid. The 1H NMR spectra was consistent with the structure of Compound 18.

reactant | 1-phenyl-5-methyl-2-pyridinone | 3 mmol, 555.7 mg | C1(=CC=CC=C1)N1C(C=CC(=C1)C)=O | C12H11NO
reactant | Lawesson's reagent | 1.5 mmol, 606.7 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-phenyl-5-methyl-2-pyridinethione | C1(=CC=CC=C1)N1C(C=CC(=C1)C)=S | C12H11NS
